************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G3_AND2_N2
* View Name:     schematic
* Netlisted on:  Feb 28 10:46:28 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G3_AND2_N2
* View Name:    schematic
************************************************************************

.SUBCKT G3_AND2_N2 A B Vdd Vss Z
*.PININFO A:I B:I Z:O Vdd:B Vss:B
XI10 net1 Vss A Vss Vdd / TIGFET_PCELL_SP15CP15_N2
XI6 net1 Vss B Vss Vdd / TIGFET_PCELL_SP15CP15_N2
XI3 Z Vdd net1 Vdd Vss / TIGFET_PCELL_SP15CP15_N2
XI4 Z Vss net1 Vss Vdd / TIGFET_PCELL_SP15CP15_N2
XI5 net1 Vdd A B Vss / TIGFET_PCELL_SP15CP15_N2
.ENDS

